US07435815B2
Naphthalene-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide
prepared by reaction of 6-methoxy-pyridin-3-ylamine with naphthalene-2-sulfonyl chloride

reactant | 6-methoxy-pyridin-3-ylamine | COC1=CC=C(C=N1)N | C6H8N2O
reactant | naphthalene-2-sulfonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | Naphthalene-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide | COC1=CC=C(C=N1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C16H14N2O3S
